US08975254B2
d) 2,6-dichloro-4-(1H-pyrazol-5-yl)benzonitrile hydrochloride
The title compound was prepared from 2,6-dichloro-4-iodobenzonitrile (1.09 g, 3.66 mmol) and 1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazole-5-boronic acid pinacol ester (1.32 g, 4.76 mmol) as described in Example 34 (a) and (b) until the isolation of the hydrochloride. Yield 0.824 g. 1H NMR (400 MHz; d6-DMSO): δ 7.07 (d, 1H), 7.88 (d, 1H), 8.14 (s, 2H).

reactant | 2,6-dichloro-4-iodobenzonitrile | 3.66 mmol, 1.09 g | ClC1=C(C#N)C(=CC(=C1)I)Cl | C7H2Cl2IN
reactant | 1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazole-5-boronic acid pinacol ester | 4.76 mmol, 1.32 g | O1C(CCCC1)N1N=CC=C1B1OC(C)(C)C(C)(C)O1 | C14H23BN2O3
reactant | hydrochloride | Cl | ClH
product | 2,6-dichloro-4-(1H-pyrazol-5-yl)benzonitrile hydrochloride | Cl.ClC1=C(C#N)C(=CC(=C1)C1=CC=NN1)Cl | InChI=1S/C10H5Cl2N3.ClH/c11-8-3-6(10-1-2-14-15-10)4-9(12)7(8)5-13;/h1-4H,(H,14,15);1H
